US08748624B2
STEP D: 3-(5-(5-chloro-2-(((3′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid
A 4M HCl solution in 1,4-dioxane (3 mL, 12 mmol) was added to a tert-butyl 3-(5-(5-chloro-2-(((3′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate (49 mg, 0.08 mmol) and the resulting mixture was stirred at room temperature. After 1.5 h the resulting mixture was concentrated in vacuo, triturated with MeOH (0.5 mL) and diethyl ether (5 mL), and filtered to yield the title compound.

reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 12 mmol, 3 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 3-(5-(5-chloro-2-(((3′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | 0.08 mmol, 49 mg | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C)CNC1=CC=C(C=C1)C1=CC(=CC=C1)OC(F)(F)F | C33H31ClF3N3O4
product | 3-(5-(5-chloro-2-(((3′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)O)CNC1=CC=C(C=C1)C1=CC(=CC=C1)OC(F)(F)F | C29H23ClF3N3O4
